US07435818B2
To a suitable vessel were charged amorphous irinotecan acetate (6.35 g) and ethanol (45 mL). The resulting mixture was heated to reflux (about 70° C.) and remained as a suspension. 2N HCl (5.4 mL) was added to the reaction mixture to adjust the pH to less than 4. N-heptane (25 mL) and ethanol (30 mL) were added to the resulting mixture. The solution was then cooled to 0˜10° C. and stirred at this temperature for 1 hour, and then charged with 200 mL of ethyl acetate in order to perform a solvent swap. The solution was then filtrated and washed with ethyl acetate (50 mL). The solid was dried in vacuum. Due to a lower than expected water content, the solid was heated under high humidity for one hour and then cooled to give irinotecan hydrochloride trihydrate Form I (6.6 g).

reactant | irinotecan acetate | 6.35 g | CCC1=C2C=C(C=CC2=NC3=C1CN4C3=CC5=C(C4=O)COC(=O)[C@@]5(CC)O)OC(=O)N6CCC(CC6)N7CCCCC7.C(C)(=O)[O-]
reactant | ethanol | 45 mL | C(C)O | C2H6O
reactant | HCl | 2N, 5.4 mL | Cl | ClH
reactant | N-heptane | 25 mL | CCCCCCC | C7H16
reactant | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | irinotecan hydrochloride trihydrate | CCC1=C2C=C(C=CC2=NC3=C1CN4C3=CC5=C(C4=O)COC(=O)[C@@]5(CC)O)OC(=O)N6CCC(CC6)N7CCCCC7.O.O.O.Cl | InChI=1S/C33H38N4O6.ClH.3H2O/c1-3-22-23-16-21(43-32(40)36-14-10-20(11-15-36)35-12-6-5-7-13-35)8-9-27(23)34-29-24(22)18-37-28(29)17-26-25(30(37)38)19-42-31(39)33(26,41)4-2;;;;/h8-9,16-17,20,41H,3-7,10-15,18-19H2,1-2H3;1H;3*1H2/t33-;;;;/m0..../s1
